US07608715B2
Step A: Preparation of 6-bromo-2-phenyl-benzo[de]isoquinoline-1,3-dione.
A mixture of 4-bromo-1,8-naphthalic anhydride (10 g), aniline (3.54 g) and acetic acid (75 ml) was refluxed with stirring for 10 hrs. The reaction mixture was then cooled to room temperature, whereupon solid separated out. The solid was filtered, washed with water (50 ml) followed by acetic acid (50 ml) and dried at 100° C. for 8 hours (Yield=10.8 gm).

reactant | 4-bromo-1,8-naphthalic anhydride | 10 g | C1=CC2=C(C=CC3=C2C(=C1)C(=O)OC3=O)Br | C12H5BrO3
reactant | aniline | 3.54 g | NC1=CC=CC=C1 | C6H7N
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
product | 6-bromo-2-phenyl-benzo[de]isoquinoline-1,3-dione | BrC=1C=CC=2C(N(C(C3=CC=CC1C23)=O)C2=CC=CC=C2)=O | C18H10BrNO2
